US05198451
(R)-N-(2-(3,3-Diphenyl-1-propyloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester
A solution of 2-(3,3-diphenyl-1-propyloxy)ethanol (2.5 g, 0.010 mol) in dry THF (20 ml) was placed on an ice-bath and a solution of n-butyllithium in hexanes (4.0 ml, 2.5 M) was added dropwise under an atmosphere of nitrogen. When addition was complete the reaction mixture was stirred at room temperature for 0.5 h and then heated at reflux temperature for 1 h. The mixture was cooled to room temperature and p-toluenesulphonyl chloride (2.1 g, 0.011 mol) was added. The mixture was stirred at room temperature for 0.5 h and then heated at reflux temperature for 1 h. To the cooled reaction mixture was added dry potassium carbonate (2.0 g, 0.015 mol) and ethyl (R)-3-piperidinecarboxylate (2.0 g, 0.0125 mol) and the mixture was heated at reflux temperature for 3 h. The cooled reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (2×200 ml). The combined organic extracts was dried over sodium sulphate and the solvent evaporated in vacuo. The residue was submitted to flash chromatography on silica gel (150 g) using a mixture of n-heptane and THF (4:1) as eluent. This provided 0.9 g (11% calculated from 3,3-diphenyl-1-propanol) of the title compound as an oil. TLC: rf=0.24 (SiO2 ; n-heptane/THF=7:3). 1H NMR δ (CDCl3) 4.10 (t, 1H).

reactant | 2-(3,3-diphenyl-1-propyloxy)ethanol | 0.010 mol, 2.5 g | C1(=CC=CC=C1)C(CCOCCO)C1=CC=CC=C1 | C17H20O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-toluenesulphonyl chloride | 0.011 mol, 2.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium carbonate | 0.015 mol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl (R)-3-piperidinecarboxylate | 0.0125 mol, 2.0 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (R)-N-(2-(3,3-Diphenyl-1-propyloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCOCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H33NO3
